US05952331
1-(2,3-Dihydro-1,4-benzodioxin-5-yl)-ethanone (1.2 g) was dissolved in 20 mL of ethyl acetate, and sodium hydride (0.33 g, 60% oil dispersion) was added. The reaction mixture was heated to 80° C. overnight, quenched with water, and neutralized with carbon dioxide to give an oily product of 1-(2,3-dihydro-1,4-benzodioxin-5-yl)butan-1,3-dione (0.37 g).

reactant | 1-(2,3-Dihydro-1,4-benzodioxin-5-yl)-ethanone | 1.2 g | O1CCOC2=C1C=CC=C2C(C)=O | C10H10O3
reactant | sodium hydride | 0.33 g | [H-].[Na+]
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 1-(2,3-dihydro-1,4-benzodioxin-5-yl)butan-1,3-dione | 0.37 g | O1CCOC2=C1C=CC=C2C(CC(C)=O)=O | C12H12O4
